US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-(4′-methyl-biphenyl-4-yl)-propionic acid
The title compound (19 mg) was prepared from (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (30 mg) and (S)-2-amino-3-(4′-methyl-biphenyl-4-yl)-propionic acid methyl ester hydrochloride according to General Procedures L and B. LCMS (m/z): 842.

reactant | (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 30 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
reactant | (S)-2-amino-3-(4′-methyl-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C)N)=O
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-(4′-methyl-biphenyl-4-yl)-propionic acid | 19 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=CC=C(C=C3)C)OC2)C=CC1Cl | C50H46Cl2N2O6
